US06066657
2-(Cyclopropyl-methoxy-methyl)-7-methoxybenzofuran-4-carboxylic Acid
Prepared from 4-bromo-2-(cyclopropyl-methoxy-methyl)-7-methoxy-benzofuran (350 mg), palladium acetate (25 mg), 1,3-(diphenylphosphino)propane (93 mg) and triethylamine (1.6 ml) in tetrahydrofuran/water (20 ml/10 ml). The title compound was obtained as a cream solid (250 mg).

reactant | 4-bromo-2-(cyclopropyl-methoxy-methyl)-7-methoxy-benzofuran | 350 mg | BrC1=CC=C(C2=C1C=C(O2)C(OC)C2CC2)OC | C14H15BrO3
reactant | triethylamine | 1.6 ml | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran water | 20 ml | O1CCCC1.O
catalyst | palladium acetate | 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-(Cyclopropyl-methoxy-methyl)-7-methoxybenzofuran-4-carboxylic Acid | C1(CC1)C(C=1OC=2C(C1)=C(C=CC2OC)C(=O)O)OC | C15H16O5
